US07601726B2
5-Bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine (1.0 g, 2.41 mmol) was added to 30 mL of a 1:1 mixture of dry THF and diethyl ether. The mixture was cooled to 0° C. in an ice bath, and isopropyl magnesium chloride (1.45 mL of 2 M solution in diethyl ether, 2.41 mmol) was added dropwise to the stirring mixture. The reaction mixture was stirred at 0° C. for on hour, then dry CO2 was bubbled through the stirring reaction mixture for 45 minutes. The reaction mixture was stirred under CO2 atmosphere for another 30 minutes, then was concentrated under reduced pressure. The residue was taken up into a mixture of 30 mL water and 5 mL THF, and the mixture was acidified to pH=2 by dropwise addition of 10% aqueous HCl. The mixture was extracted wtih EtOAc and the organic layer was washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to give 950 mg of 2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid. MS(M+H)=381.

reactant | 5-Bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine | 2.41 mmol, 1.0 g | BrC=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C16H7BrF4N2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | isopropyl magnesium chloride | 2.41 mmol, 2 M, 1.45 mL | C(C)(C)[Mg]Cl
reactant | diethyl ether | C(C)OCC | C4H10O
product | 2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine-5-carboxylic acid | 950 mg | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(=O)O)C=CC(=C1)F | C17H8F4N2O4
